US07381833B2
Production of tert-butyl 2-fluoro-cyclopropane-1-carboxylate (3a)
Sodium borohydride (8.75 g, 231.21 mmol) was dissolved in NMP (95 mL) under stirring with a stirring blade at room temperature. Subsequently, to the resultant solution was added an NMP solution (20 mL) of tert-butyl 1-chloro-2-fluoro-cyclopropane-1-carboxylate (cis/trans=62/38) (hereinafter the compound will be referred to as “compound (1a)”) (30 g, 154.14 mmol). An NMP solution (35 mL) of cobalt chloride hexahydrate (1.1 g, 4.62 mmol) was gradually added to the resultant reaction mixture under ice cooling. After completion of dropwise addition, the resultant mixture was stirred with a stirring blade at room temperature for 30 minutes, and at 40° C. for three hours. After completion of reaction, water (120 mL) was added to the resultant reaction mixture at the same temperature, followed by addition of 5 N hydrochloric acid (30 mL). Subsequently, toluene was added to the reaction mixture for extraction. The resultant toluene layer was washed with water, and then dried over sodium sulfate, to thereby yield a toluene solution containing 24.3 g (yield: 98%) of the title compound. Yield was determined by means of high performance liquid chromatography (HPLC) (the same shall apply hereinafter).

reactant | Sodium borohydride | 231.21 mmol, 8.75 g | [BH4-].[Na+]
reactant | tert-butyl 1-chloro-2-fluoro-cyclopropane-1-carboxylate | ClC1(C(C1)F)C(=O)OC(C)(C)C | C8H12ClFO2
reactant | water | 120 mL | O | H2O
reactant | hydrochloric acid | 5 N, 30 mL | Cl | ClH
solvent | NMP | 95 mL | CN1CCCC1=O | C5H9NO
catalyst | cobalt chloride hexahydrate | 4.62 mmol, 1.1 g | O.O.O.O.O.O.[Co](Cl)Cl
solvent | NMP | 35 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-fluoro-cyclopropane-1-carboxylate | 24.3 g, yield: 98% | FC1C(C1)C(=O)OC(C)(C)C | C8H13FO2
